US07423156B2
N-(4-Bromophenyl)-5-(trifluoromethyl)-1,3-benzoxazol-2-amine
2-Amino-4-(trifluoromethyl)phenol (250 mg, 1.41 mmol) and 1-bromo-4-isothio-cyanatobenzene (302 mg, 1.41 mmol) were stirred in ethyl alcohol at ambient temperature for 18 h. The flask was charged with 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride (EDCI) (405 mg, 2.12 mmol), and the mixture was stirred for 2 h before being heated at reflux overnight. The reaction was allowed to cool to rt and was concentrated under reduced pressure. The residue was dissolved in ethyl acetate and washed with 2 N aqueous hydrochloric acid solution and water, dried (Na2SO4), and concentrated in vacuo. The residue was purified by flash chromatography on silica gel, eluting with 85:15 hexanes/ethyl acetate to provide the title compound (315 mg, 62%). LC-MS m/z 357.1 (MH+), retention time 4.20 minutes.

reactant | 2-Amino-4-(trifluoromethyl)phenol | 1.41 mmol, 250 mg | NC1=C(C=CC(=C1)C(F)(F)F)O | C7H6F3NO
reactant | 1-bromo-4-isothio-cyanatobenzene | 1.41 mmol, 302 mg | BrC1=CC=C(C=C1)N=C=S | C7H4BrNS
reactant | 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride | 2.12 mmol, 405 mg | Cl.CN(CCCN=C=NCC)C
solvent | ethyl alcohol | C(C)O | C2H6O
product | N-(4-Bromophenyl)-5-(trifluoromethyl)-1,3-benzoxazol-2-amine | 315 mg, 62% | BrC1=CC=C(C=C1)NC=1OC2=C(N1)C=C(C=C2)C(F)(F)F | C14H8BrF3N2O
